US04971993
N-benzenesulfonyl-L-prolyl-L-proline benzylester (2.17 g, 4.9 mmole) was dissolved in methanol (40 ml), and water (5 ml) solution of sodium bicarbonate (0.42 g, 5 mmole) was added thereto. Hydrogen gas was passed through the solution in the presence of 5% palladium-carbon as a catalyst for 3 hours. The catalyst was removed by filtration, and the solution was concentrated under reduced pressure, and the residue thus obtained was dissolved in water (10 ml). 1N aqueous hydrochloric acid (10 ml) was added to the solution. The white crystals thus obtained were recrystallized from N,N-dimethylformamide, ethyl acetate and petroleum ether to obtain N-benzenesulfonyl-L-prolyl-L-proline (yield 1.08 g, 62.5%).

reactant | N-benzenesulfonyl-L-prolyl-L-proline benzylester | 4.9 mmole, 2.17 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)S(=O)(=O)C1=CC=CC=C1)=O)=O | C23H26N2O5S
reactant | sodium bicarbonate | 5 mmole, 0.42 g | C([O-])(O)=O.[Na+]
reactant | Hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | N-benzenesulfonyl-L-prolyl-L-proline | yield 1.08 g, 62.5% | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C16H20N2O5S
